US06320051B1
a) 3,5-Dichloro-2-phenethoxybenzaldehyde
To 3,5-dichlorosalicylaldehyde (229 mg, 1.2 mmol) in DMF (5 ml) was added K2CO3 (1.06 g, 7.7 mmol) followed by (2-bromoethyl)benzene (0.14 ml, 1.0 mmol). The mixture was stirred under argon for five days then diluted with H2O (30 ml), extracted with Et2O (3×50 ml), dried (MgSO4), filtered, and concentrated in vacuo to give the title compound as a white powder (207 mg, 0.7 mmol, 70%); δH (CDCl3) 3.17 (2H, t), 4.31 (2H, t), 7.19-7.36 (5H, m), 7.60 (1H, d), 7.67 (1H, d), 9.95 (1H, s).

reactant | 3,5-dichlorosalicylaldehyde | 1.2 mmol, 229 mg | ClC1=C(C(C=O)=CC(=C1)Cl)O | C7H4Cl2O2
reactant | K2CO3 | 7.7 mmol, 1.06 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (2-bromoethyl)benzene | 1.0 mmol, 0.14 ml | BrCCC1=CC=CC=C1 | C8H9Br
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | H2O | 30 ml | O | H2O
product | 3,5-Dichloro-2-phenethoxybenzaldehyde | 0.7 mmol, 207 mg, 70% | ClC=1C(=C(C=O)C=C(C1)Cl)OCCC1=CC=CC=C1 | C15H12Cl2O2
